US05336782
In 1 ml of dimethylformamide was dissolved N-(13-benzyloxycarbonyltridecanoyloxy)sulfosuccinimide sodium salt (50 mg, 0.11 mmole). To the obtained solution, was added 5 mg of 10% palladium carbon and the mixture was stirred for 20 hours under an atmosphere of hydrogen. The reaction mixture was filtered and to the filtrate 30 ml of ethyl acetate was added. The mixture was stirred for 30 minutes and the solid that formed was collected by filtration and dried under reduced pressure to give N-(13-carboxytridecanoyloxy)sulfosuccinimide sodium salt (22 mg, 63%) having the following properties.

reactant | N-(13-benzyloxycarbonyltridecanoyloxy)sulfosuccinimide sodium salt | 0.11 mmole, 50 mg | [Na].C(C1=CC=CC=C1)OC(=O)CCCCCCCCCCCCC(=O)ON1C(C(CC1=O)S(=O)(=O)O)=O
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
catalyst | palladium carbon | 5 mg | [C].[Pd]
product | N-(13-carboxytridecanoyloxy)sulfosuccinimide sodium salt | 22 mg, 63% | [Na].C(=O)(O)CCCCCCCCCCCCC(=O)ON1C(C(CC1=O)S(=O)(=O)O)=O | InChI=1S/C18H29NO9S.Na/c20-15-13-14(29(25,26)27)18(24)19(15)28-17(23)12-10-8-6-4-2-1-3-5-7-9-11-16(21)22;/h14H,1-13H2,(H,21,22)(H,25,26,27);
